US09231217B2
Step 1: Synthesis of 5,6-diphenylpyrazin-2-ol
First, 4.2 g (20 mmol) of benzil, 2.21 g (20 mmol) of glycinamide hydrochloride, and 40 mL of methanol were put into a three-neck flask equipped with a reflux pipe, the air in the flask was replaced with nitrogen, the mixture was refluxed, an aqueous solution of 1.6 g (40 mmol) of sodium hydroxide in 3.2 mL of water was added, and the reflux was continued for 3 hours. Then, stirring was performed until the temperature of the flask was returned to room temperature. After that, 2.5 mL of 12M concentrated hydrochloric acid, 2 g of potassium bicarbonate, and 25 mL of water were added to this mixture, and filtration was performed.

reactant | benzil | 20 mmol, 4.2 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | glycinamide hydrochloride | 20 mmol, 2.21 g | Cl.NCC(=O)N
reactant | sodium hydroxide | 40 mmol, 1.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 12M, 2.5 mL | Cl | ClH
reactant | potassium bicarbonate | 2 g | C([O-])(O)=O.[K+]
solvent | water | 3.2 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | 5,6-diphenylpyrazin-2-ol | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)O | C16H12N2O
